US07417041B2
Step A: Preparation of Benzo[1,3]dioxole-5-carboxylic acid methoxy-methyl-amide
To a solution of benzo[1,3]dioxole-5-carboxylic acid (69 g, 415 mmol) in dimethylformamide (1L) was added di-imidazol-1-yl-methanone (74 g, 1.1 equiv), and the resulting reaction mixture was stirred at ambient temperature for 90 minutes. N,O-Dimethyl-hydroxylamine (43 g, 1.1 equiv) was added to the reaction mixture. The resulting reaction mixture was stirred at ambient temperature for 18 hours, and then concentrated in vacuo to ¼ of the volume, poured into 5% aqueous sodium hydrogen carbonate (1L), stirred at ambient temperature for 20 minutes, and then extracted with methyl tert-butyl ether (2×300 mL). The combined organics extracts were dried over magnesium sulfate and concentrated in vacuo. The resulting residue was azeotroped with toluene (800 mL) and dried under vacuum for 3 hours. The crude product was used in the next step without further purification.

reactant | benzo[1,3]dioxole-5-carboxylic acid | 415 mmol, 69 g | O1COC2=C1C=CC(=C2)C(=O)O | C8H6O4
reactant | di-imidazol-1-yl-methanone | 74 g, 1.1 equiv | N1(C=NC=C1)C(=O)N1C=NC=C1 | C7H6N4O
reactant | N,O-Dimethyl-hydroxylamine | 43 g, 1.1 equiv | CNOC | C2H7NO
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | Benzo[1,3]dioxole-5-carboxylic acid methoxy-methyl-amide | CON(C(=O)C1=CC2=C(OCO2)C=C1)C | C10H11NO4
